US07601728B2
tert-Butyl {(3R)-1-[5-(2-chlorobenzyl)-7-hydroxy-1,3-dimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate
Methanesulfonic acid (21 μl) and a 30% aqueous hydrogen peroxide solution (54 μl) were added to a solution of tert-butyl {(3R)-1-[5-(2-chlorobenzyl)-7-formyl-1,3-dimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate (132 mg) in methanol (4 ml), and the resulting mixture was stirred at room temperature for 2 hours. A 10% aqueous sodium sulfite solution was added to the reaction solution, followed by extraction with ethyl acetate (50 ml). The organic layer was dried over sodium sulfate and filtered and the filtrate was concentrated under reduced pressure. The resulting residue was purified by a silica gel column chromatography (hexane/ethyl acetate=1/2) to obtain the title compound (54 mg).

reactant | Methanesulfonic acid | 21 μl | CS(=O)(=O)O | CH4O3S
reactant | hydrogen peroxide | 54 μl | OO | H2O2
reactant | tert-butyl {(3R)-1-[5-(2-chlorobenzyl)-7-formyl-1,3-dimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate | 132 mg | ClC1=C(CN2C(=C(C=3N(C(N(C(C32)=O)C)=O)C)C=O)N3C[C@@H](CCC3)NC(OC(C)(C)C)=O)C=CC=C1 | C26H32ClN5O5
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | methanol | 4 ml | CO | CH4O
product | tert-Butyl {(3R)-1-[5-(2-chlorobenzyl)-7-hydroxy-1,3-dimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate | 54 mg | ClC1=C(CN2C(=C(C=3N(C(N(C(C32)=O)C)=O)C)O)N3C[C@@H](CCC3)NC(OC(C)(C)C)=O)C=CC=C1 | C25H32ClN5O5
